US06008214
b) Methyl (±)-7-[[bis[2-(4-pyridinyl)ethyl]amino]carbonyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate
Diisopropylethylamine (0.35 g, 2.7 mmole) was added in one portion to a stirred mixture of bis [2-(4-pyridyl)ethyl]amine (0.37 g, 1.65 mmole), methyl (±)-7-carboxy-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate (0.44 g, 1.50 mmole), EDC (0.34 g, 1.8 mmole), and HOBT . H2O (0.24 g, 1.8 mmole) in DMF (8 mL) at 0° C. under argon, and the reaction was allowed to warm to RT. After 19.5 h, the reaction was poured into a mixture of ice water (100 g) and 5% NaHCO3 (10 mL) and extracted with CH2Cl2 (2×100 mL). The combined organic layers were washed with 5% NaHCO3 (50 mL), dried (MgSO4), and concentrated. Chromatography on silica gel (7% MeOH/CH2Cl2) gave the title compound (0.7 g, 88%). MS (ES) m/e 502.4 (M+H)+. c) (±)-7-[[Bis[2-(4-pyridinyl)ethyl]amino]carbonyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetic acid

reactant | Diisopropylethylamine | 2.7 mmole, 0.35 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bis [2-(4-pyridyl)ethyl]amine | 1.65 mmole, 0.37 g | N1=CC=C(C=C1)CCNCCC1=CC=NC=C1 | C14H17N3
reactant | methyl (±)-7-carboxy-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 1.50 mmole, 0.44 g | C(=O)(O)C=1C=CC2=C(CN(C(C(N2)CC(=O)OC)=O)C)C1 | C14H16N2O5
reactant | EDC | 1.8 mmole, 0.34 g
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 1.8 mmole, 0.24 g | O | H2O
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Methyl (±)-7-[[bis[2-(4-pyridinyl)ethyl]amino]carbonyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 0.7 g, 88% | N1=CC=C(C=C1)CCN(C(=O)C=1C=CC2=C(CN(C(C(N2)CC(=O)OC)=O)C)C1)CCC1=CC=NC=C1 | C28H31N5O4
